US09079919B2
N-((2RS,4R)-3′-Amino-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-6-yl)-5-cyanopicolinamide
The condensation of (2RS,4R)-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-3′,6-diamine (intermediate C4.3) and 5-cyanopicolinic acid yielded the title compound as an off-white solid. MS (ISP): m/z=490.2 [M+H]+. In a manner analogous to that described in Example 19, the following compounds were obtained:

reactant | (2RS,4R)-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-3′,6-diamine | FC1([C@@]2(N=C(COC1)N)CC(OC1=CC=C(C=C12)N)C1=CC=CC=C1)F | C19H19F2N3O2
reactant | 5-cyanopicolinic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | N-((2RS,4R)-3′-Amino-6′,6′-difluoro-2-phenyl-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-6-yl)-5-cyanopicolinamide | NC=1COCC([C@@]2(N1)CC(OC1=CC=C(C=C12)NC(C1=NC=C(C=C1)C#N)=O)C1=CC=CC=C1)(F)F | C26H21F2N5O3
